US06291452B1
To a solution of 3-aminoacetophenone (2.049 g) and pyridine (1.286 g) in tetrahydrofuran (35 ml) was added dropwise a solution of 4-nitrophenylchloroformate (3.288 g) in tetrahydrofuran (10 ml) under cooling in an ice bath. After completion of the addition, the mixture was allowed to stand to ambient temperature and stirred over night. Water was added to the mixture. The resultant precipitate was collected by suction filtration, washed with water and dried in vacuo at 80° C. to afford 4-nitrophenyl N-(3-acetylphenyl)carbamate (3.31 g).

reactant | 3-aminoacetophenone | 2.049 g | CC(=O)C1=CC(=CC=C1)N | C8H9NO
reactant | pyridine | 1.286 g | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenylchloroformate | 3.288 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | Water | O | H2O
reactant | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-nitrophenyl N-(3-acetylphenyl)carbamate | 3.31 g | C(C)(=O)C=1C=C(C=CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H12N2O5
